US06890923B2
5-[3-Hydroxy-3-methyl-1-butenyl]-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Prepared using 5-bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione and 2-methyl-3-buten-2-ol. The crude product was purified by flash silica chromatography eluting with a gradient of 0-2% ethanol in dichloromethane to give the title compound as a cream foam (0.20 g).

reactant | 5-bromo-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | BrC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F | C19H18BrF3N2O2S
reactant | 2-methyl-3-buten-2-ol | CC(C)(C=C)O | C5H10O
product | 5-[3-Hydroxy-3-methyl-1-butenyl]-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.20 g | OC(C=CC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F)(C)C | C24H27F3N2O3S
